US07259157B2
N-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-4-hydroxy-benzamide was prepared from C-{1-[2-(4-fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine and 4-hydroxybenzoic acid as described above in EXAMPLE 1, Step 2

reactant | C-{1-[2-(4-fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine | FC1=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H21FN2O2S
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
product | N-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-4-hydroxy-benzamide | FC1=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CNC(C1=CC=C(C=C1)O)=O | C21H25FN2O4S
